US08648066B2
A solution of 2-(azidomethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one (151 mg, 0.65 mmol) in chloroform (1.2 mL) was treated with phosphorus oxychloride (600 uL) at 60° C. for 1 h 20 min. After cooling to rt, the volatile materials were removed in vacuo, and the resulting residue was dissolved in ethyl acetate. The organic solution was washed with saturated aqueous sodium bicarbonate, and the aqueous phase was back extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to provide 2-(azidomethyl)-4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline (136 mg, 0.54 mmol, 83% yield) as an orange oil. 1H NMR (400 MHz, CDCl3) δ 4.47 (s, 2H), 2.94 (t, 2H), 2.55 (s, 2H), 1.68 (t, 2H), 1.05 (s, 6H); MS (EI) for C11H14ClN5: 252 (MH+).

reactant | 2-(azidomethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one | 0.65 mmol, 151 mg | N(=[N+]=[N-])CC1=NC=2CCC(CC2C(N1)=O)(C)C | C11H15N5O
reactant | phosphorus oxychloride | 600 uL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 1.2 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(azidomethyl)-4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline | 0.54 mmol, 136 mg, 83% yield | N(=[N+]=[N-])CC1=NC=2CCC(CC2C(=N1)Cl)(C)C | C11H14ClN5
